US04822805
To a solution of 2-(2,4-dimethoxyphenyl)-5-methyl-4-(3-pyridyl)imidazole (0.80 g) in N,N-dimethylformamide (12 ml) was added sodium hydride (0.13 g, 60% suspension in oil), and the mixture was stirred for 10 minutes. Then methyl iodide (0.34 ml) was added thereto, and the reaction was stirred at ambient temperature for 5 hours. The solution was poured into water (100 ml), and extracted with ethyl acetate. The extract was washed with water, dried over sodium sulfate, and chromatographed on silica gel (25 g) eluting with chloroform. The fractions were collected and evaporated, and the residue was triturated with a mixture of ethyl acetate and diisopropyl ether (1:1 V/V) to give 2-(2,4-dimethoxyphenyl)-1,5-dimethyl-4-(3-pyridyl)imidazole (70 mg).

reactant | 2-(2,4-dimethoxyphenyl)-5-methyl-4-(3-pyridyl)imidazole | 0.80 g | COC1=C(C=CC(=C1)OC)C=1NC(=C(N1)C=1C=NC=CC1)C | C17H17N3O2
reactant | sodium hydride | 0.13 g | [H-].[Na+]
reactant | methyl iodide | 0.34 ml | CI | CH3I
reactant | water | 100 ml | O | H2O
solvent | N,N-dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
product | 2-(2,4-dimethoxyphenyl)-1,5-dimethyl-4-(3-pyridyl)imidazole | 70 mg | COC1=C(C=CC(=C1)OC)C=1N(C(=C(N1)C=1C=NC=CC1)C)C | C18H19N3O2
